US08304419B2
Step C: 1,1-dimethylethyl (3-bromo-2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-5-yl)carbamate
HATU (0.231 g, 0.608 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.126 g, 0.405 mmol), 3-bromo-5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylic acid (0.144 g, 0.405 mmol) and diisopropylethylamine (0.106 mL, 0.608 mmol) in DMF (3 mL). The mixture was stirred at room temperature for 1 hr. The reaction mixture was extracted with ethyl acetate and water. The organic layer was washed with water, dried over sodium sulfate and concentrated. The residue was triturated with methanol to give the title compound (0.086 g, 31%). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.84 (br. s., 1H), 9.27 (br. s., 1H), 8.45 (br. s., 1H), 7.66-7.84 (m, 2H), 7.38-7.56 (m, 4H), 7.17-7.34 (m, 2H), 4.57 (d, 2H), 1.14-1.62 (m, 9H).

reactant | HATU | 0.608 mmol, 0.231 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.405 mmol, 0.126 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 3-bromo-5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylic acid | 0.405 mmol, 0.144 g | BrC1=C(NC2=CC=C(C=C12)NC(=O)OC(C)(C)C)C(=O)O | C14H15BrN2O4
reactant | diisopropylethylamine | 0.608 mmol, 0.106 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl (3-bromo-2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-5-yl)carbamate | 0.086 g, 31% | BrC1=C(NC2=CC=C(C=C12)NC(OC(C)(C)C)=O)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C28H22BrCl2FN4O4
